US06384115B1
(d) N-(4-hydroxyphenyl)benzenesulphonamide (BE)
The preparation is carried out as in Example 1(a) from 353 g (2 mol) of benzenesulphonyl chloride and 229.2 g of 4-aminophenol (2.1 mol). The amount obtained is 507.9 g, i.e. a yield of 97.3%.

reactant | benzenesulphonyl chloride | 2 mol, 353 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 4-aminophenol | 2.1 mol, 229.2 g | NC1=CC=C(C=C1)O | C6H7NO
product | N-(4-hydroxyphenyl)benzenesulphonamide | yield of 97.3% | OC1=CC=C(C=C1)NS(=O)(=O)C1=CC=CC=C1 | C12H11NO3S
